US08012998B2
a) (3RS,4SR)-1-Benzyl-4-(3,4-difluoro-phenyl)-pyrrolidine-3-carboxylic acid
To a solution of N-(methoxymethyl)-N-(phenylmethyl)-N-(trimethylsilyl)methylamine (48.3 g, 204 mmol) and (E)-3-(3,4-difluoro-phenyl)-acrylic acid (15 g, 81.5 mmol) in THF (200 mL) was added trifluoroacetic acid (0.312 mL, 0.0041 mol) at 0° C. The mixture was gradually warmed to room temperature and stirred overnight. It was then concentrated in vaccuo and the residue was diluted with n-heptane (500 mL) followed by vigorous stirring for 1 hour. The resulted white precipitation was collected and washed with heptane affording 26 g (100%) of the title compound as a white solid. MS m/e: 318.1 (M+H+).

reactant | N-(methoxymethyl)-N-(phenylmethyl)-N-(trimethylsilyl)methylamine | 204 mmol, 48.3 g | COCN(C[Si](C)(C)C)CC1=CC=CC=C1 | C13H23NOSi
reactant | (E)-3-(3,4-difluoro-phenyl)-acrylic acid | 81.5 mmol, 15 g | FC=1C=C(C=CC1F)/C=C/C(=O)O | C9H6F2O2
reactant | trifluoroacetic acid | 0.0041 mol, 0.312 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | (3RS,4SR)-1-Benzyl-4-(3,4-difluoro-phenyl)-pyrrolidine-3-carboxylic acid | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC(=C(C=C1)F)F)C(=O)O | C18H17F2NO2
